US06573263B2
2-Acetyl-N-{1-[3-(4-methylbenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl }-5-phenylpentanamide
270 mg (2.14 mmol) of oxalyl chloride in 10 ml of dichloromethane are treated dropwise at −70° C. with 360 mg (4.64 mmol) of dimethyl sulphoxide. The mixture is stirred at −70° C. for 30 min, then 800 mg (1.78 mmol) of 2-(1-hydroxyethyl)-N-{1-[3-(4-methylbenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide are added. After a further 30 min, during which the temperature in the batch rises to about −60° C., 900 mg (8.92 mmol) of triethylamine are added and the cooling bath is then removed. If the batch temperature has warmed almost to room temperature, 10 ml of water are added and, after stirring briefly, the phases are separated. The dried organic phase is chromatographed in dichloromethane/methanol 50/1.

reactant | oxalyl chloride | 2.14 mmol, 270 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 4.64 mmol, 360 mg | CS(=O)C | C2H6OS
reactant | 2-(1-hydroxyethyl)-N-{1-[3-(4-methylbenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide | 1.78 mmol, 800 mg | OC(C)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)C)=O)CCCC1=CC=CC=C1 | C26H32N4O3
reactant | triethylamine | 8.92 mmol, 900 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Acetyl-N-{1-[3-(4-methylbenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl }-5-phenylpentanamide | C(C)(=O)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)C)=O)CCCC1=CC=CC=C1 | C26H30N4O3
